US06759428B2
(1R,2S)-2-Amino-cyclohexanecarboxylic acid ((S)-1-cyano-3-methyl-butyl)-amide was coupled with afford 1-(3-chloro-propyl)-1H-indole-2-carboxylic acid using the procedure of Example 11 to yield 1-(3-chloro-propyl)-1H-indole-2-carboxylic acid [(1S,2R)-2-((S)-1-cyano-3-methyl-butylcarbamoyl)-cyclohexyl]-amide.

reactant | (1R,2S)-2-Amino-cyclohexanecarboxylic acid ((S)-1-cyano-3-methyl-butyl)-amide | C(#N)[C@H](CC(C)C)NC(=O)[C@H]1[C@H](CCCC1)N | C13H23N3O
reactant | 1-(3-chloro-propyl)-1H-indole-2-carboxylic acid | ClCCCN1C(=CC2=CC=CC=C12)C(=O)O | C12H12ClNO2
product | 1-(3-chloro-propyl)-1H-indole-2-carboxylic acid [(1S,2R)-2-((S)-1-cyano-3-methyl-butylcarbamoyl)-cyclohexyl]-amide | C(#N)[C@H](CC(C)C)NC(=O)[C@H]1[C@H](CCCC1)NC(=O)C=1N(C2=CC=CC=C2C1)CCCCl | C25H33ClN4O2
